US07153968B2
N-(3,5-Dichloro-pyridin-4-yl)-3-{3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl}-acrylamide
To a solution of 3,5-dichloro-pyridin-4-ylamine (1.5 eq.) in DMF (0.1M) was added t-BuONa (1.5 eq.). The mixture was stirred for 15 min then 3-{3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl yl}-acrylic acid 4-nitro-phenyl ester (1.0 eq.) was added. The final mixture was stirred for 12 h, poured in saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 9:1 to 1:9 in 20 min) afforded the title compound as a yellow solid. 1H NMR (400 MHz, acetone-d6): δ 9.44 (br s, 1H), 8.97 (dd, 1H), 8.64 (s, 2H), 8.50 (dd, 1H), 8.33 (d, 1H), 8.26 (d, 1H), 8.11 (t, 1H), 7.87–7.77 (m, 7H), 7.65–7.60 (m, 2H), 7.09 (d, 1H), 2.81 (s, 3H), 2.04 (s, 6H).

reactant | 3,5-dichloro-pyridin-4-ylamine | 1.5 eq. | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | t-BuONa | 1.5 eq. | C(C)(C)(C)O[Na]
reactant | 3-{3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl yl}-acrylic acid 4-nitro-phenyl ester | 1.0 eq. | [N+](=O)([O-])C1=CC=C(C=C1)OC(C=CC1=C(C=CC=C1)C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C)=O | C34H28N2O6S
reactant | DMF | 0.1M | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | N-(3,5-Dichloro-pyridin-4-yl)-3-{3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl}-acrylamide | ClC=1C=NC=C(C1NC(C=CC1=CC=C(C=C1)C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C)=O)Cl | C33H27Cl2N3O3S
